US08030499B2
Step 195-1: Synthesis of 1-(3-bromo-4-methoxyphenyl)-N,N-dimethyl methane amine
To a solution of 10.0 g of 3-bromo-4-methoxy benzaldehyde in MeOH (155 ml) was added an aqueous solution of 50% dimethylamine (2.52 ml) and the reaction mixture was stirred at room temperature for 30 minutes. Thereafter, to the solution was added 4.38 g of sodium cyanoborohydride, the reaction mixture was stirred for 15 hours under the same temperature condition, and the reaction solution was concentrated under reduced pressure. Water was added to the residue and extracted with CHCl3; the organic layer was washed with saturated brine and dried over MgSO4, then, the drying agent was separated by filtration and the solvent was evaporated under reduced pressure. The obtained residue was purified by column chromatography (silicagel 60; mobile phase: EtOAc/hexane=1/1, then, MeOH/CHCl3=1/9; v/v) to obtain 2.20 g of the title compound (colorless oil).

reactant | 3-bromo-4-methoxy benzaldehyde | 10.0 g | BrC=1C=C(C=O)C=CC1OC | C8H7BrO2
reactant | dimethylamine | 2.52 ml | CNC | C2H7N
reactant | sodium cyanoborohydride | 4.38 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 155 ml | CO | CH4O
product | 1-(3-bromo-4-methoxyphenyl)-N,N-dimethyl methane amine | 2.20 g | BrC=1C=C(C=CC1OC)CN(C)C | C10H14BrNO
